US09233979B2
(R)—N-Ethyl-N-(7-fluoro-6-(3-(1-phenylethyl)ureido)-1H-pyrazolo[4,3-c]pyridin-3-yl)acetamide (27 mg, 0.070 mmol) was dissolved in THF (3 mL), charged with HCl (300 μL, 3.65 mmol), and heated to 60° C. for 4 h. The solvents were removed in vacuo and the residue was taken up in DMF and purified by mass-triggered reverse phase HPLC. Fractions containing pure compound were filtered through a PS-HCO3 cartridge and the filtrate was concentrated in vacuo to give (R)-1-(3-(ethylamino)-7-fluoro-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea. MS ESI calc'd. for C17H19FN6O [M+1]+ 343. found 343. 1H NMR (500 MHz, DMSO-d6) δ 12.15 (s, 1H), 8.67 (s, 1H), 8.90 (br s, 1H), 8.49 (s, 1H), 7.39-7.27 (m, 4H), 7.26-7.18 (m, 1H), 4.90 (t, J=7.2 Hz, 1H), 3.25 (m, 2H), 1.42 (d, J=6.9 Hz, 3H), 1.20 (t, J=7.2 Hz, 3H).

reactant | (R)—N-Ethyl-N-(7-fluoro-6-(3-(1-phenylethyl)ureido)-1H-pyrazolo[4,3-c]pyridin-3-yl)acetamide | 0.070 mmol, 27 mg | C(C)N(C(C)=O)C1=NNC2=C1C=NC(=C2F)NC(=O)N[C@H](C)C2=CC=CC=C2 | C19H21FN6O2
reactant | HCl | 3.65 mmol, 300 μL | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (R)-1-(3-(ethylamino)-7-fluoro-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | C(C)NC1=NNC2=C1C=NC(=C2F)NC(=O)N[C@H](C)C2=CC=CC=C2 | C17H19FN6O
